US08871753B2
Step A: 2,5-Dichloro-N-methyl-N-[3-(tetrahydro-2H-pyran-2-yloxy)phenyl]pyrimidin-4-amine
A solution of 2,5-dichloro-N-[3-(tetrahydro-2H-pyran-2-yloxy)phenyl]pyrimidin-4-amine (110 mg, 0.32 mmol) in acetonitrile (3 mL) was treated with potassium carbonate (89 mg, 0.65 mmol) followed by methyl iodide (60 μL, 0.97 mmol) and heated at 70° C. for 16 h. The reaction mixture was treated with additional methyl iodide (60 μL, 0.97 mmol) and heated at 70° C. for 11 h. The reaction mixture was cooled to 25° C., poured into water (30 mL), and extracted with ethyl acetate (50 mL). The organic layer was separated and washed with brine (20 mL), dried over anhydrous sodium sulfate, filtered, and evaporated to give a crude oil. This material was purified by flash column chromatography to give the desired product (68 mg, 59%) as a clear oil. LCMS for C16H18Cl2N3O2 (M+H)+: m/z=354.0, 356.0.

reactant | 2,5-dichloro-N-[3-(tetrahydro-2H-pyran-2-yloxy)phenyl]pyrimidin-4-amine | 0.32 mmol, 110 mg | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)OC1OCCCC1)Cl | C15H15Cl2N3O2
reactant | potassium carbonate | 0.65 mmol, 89 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.97 mmol, 60 μL | CI | CH3I
reactant | methyl iodide | 0.97 mmol, 60 μL | CI | CH3I
reactant | water | 30 mL | O | H2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 2,5-Dichloro-N-methyl-N-[3-(tetrahydro-2H-pyran-2-yloxy)phenyl]pyrimidin-4-amine | 68 mg, 59% | ClC1=NC=C(C(=N1)N(C1=CC(=CC=C1)OC1OCCCC1)C)Cl | C16H17Cl2N3O2
